US08865675B2
Synthesis of Benzyl 5-(Dimethylamino)Pentanoate
Benzyl 5-(methanesulfonyl)pentanoate (1.39 g, 4.85 mmol) was allowed to react in a 5.6M solution of dimethylamine in ethanol (100 mL) for 20 hours. The solution was then concentrated in vacuo to dryness. The resulting brown oil was purified by column chromatography (column 10″L×1″W; eluted with a gradient of 100% dichloromethane→2%/0.5%→4%/0.5% MeOH/NH4OH in dichloromethane) to afford the product as a yellow oil (0.79 g, 69%).

reactant | Benzyl 5-(methanesulfonyl)pentanoate | 4.85 mmol, 1.39 g | CS(=O)(=O)CCCCC(=O)OCC1=CC=CC=C1 | C13H18O4S
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Benzyl 5-(Dimethylamino)Pentanoate | 0.79 g, 69% | CN(CCCCC(=O)OCC1=CC=CC=C1)C | C14H21NO2
